US07662819B2
To a suspension of N-{2-[(5-nitro-2-{[(3,4-dichlorophenyl)methyl]amino}pyrimidin-4-yl)amino]ethyl}(tert-butoxy)carboxamide, prepared as described in Example 4, (1.5 g, 3.28 mmol) in MeOH (100 mL) was added hydrazine (1.8 mL of 65% v/v aq. solution, 33 mmol). The reaction mixture was heated to 60° C. Raney Ni was added in portions to keep evolution of nitrogen steady. After 1 h the reaction mixture was cooled to room temperature, catalyst filtered off, and the filter cake washed with MeOH. The resulting solution was concentrated and purified by chromatography eluting with MeOH/dichloromethane gradient to provide compound N-{2-[(5-amino-2-{[(3,4-dichlorophenyl)methyl]amino}pyrimidin-4-yl)amino]ethyl}(tert-butoxy)carboxamide as tan solid. Compound was used in the next step without purification.

reactant | N-{2-[(5-nitro-2-{[(3,4-dichlorophenyl)methyl]amino}pyrimidin-4-yl)amino]ethyl}(tert-butoxy)carboxamide | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=CC(=C(C=C1)Cl)Cl)NCCNC(=O)OC(C)(C)C | C18H22Cl2N6O4
reactant | hydrazine | NN | H4N2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | N-{2-[(5-amino-2-{[(3,4-dichlorophenyl)methyl]amino}pyrimidin-4-yl)amino]ethyl}(tert-butoxy)carboxamide | NC=1C(=NC(=NC1)NCC1=CC(=C(C=C1)Cl)Cl)NCCNC(=O)OC(C)(C)C | C18H24Cl2N6O2
